US05795900
Step 2: 4.4-bis(4-(2-quinolylmethoxy)phenyl)-4-hydroxy-2-butynoic acid
The desired compound was prepared according to the method of Example 1, step 3, except substituting 4,4-bis(2-quinolylmethoxy)phenyl)-4-hydroxy-2-butynoic acid methyl ester, prepared as in step 1, for 4,4-bis(4-(2-quinolylmethoxy)phenyl)-pentanoic acid: mp 169°-172° C.; 1H NMR (300 MHz, DMSO--d6) d 5.35 (s, 4H), 7.04 (d, 4H, J=9 Hz), 7.37 (d, 4H, J=9 Hz), 7.63 (m, 4H), 7.78 (m, 2H), 8.00 (m, 4H), 8.40 (d, 2H, J=8 Hz), 13.75 (bs, 1H); MS (DCI--NH3) m/e: 567 (M+H)+. Anal. Calc'd. for C36H26 N2O4. 0.5 H2O: C, 75.12; H, 4.73;N, 4.89. Found: 75.19; H, 4.80; N, 4.60.

reactant | 4-hydroxy-2-butynoic acid methyl ester | COC(C#CCO)=O | C5H6O3
reactant | 4,4-bis(4-(2-quinolylmethoxy)phenyl)-pentanoic acid | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(CCC(=O)O)(C)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C37H32N2O4
reactant | NH3 | N | H3N
reactant | H2O | O | H2O
product | 4.4-bis(4-(2-quinolylmethoxy)phenyl)-4-hydroxy-2-butynoic acid | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(C#CC(=O)O)(O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C36H26N2O5
